US05985900
To a 0° C. solution of D-penicillamine methyl ester hydrochloride (0.250 g., 1.25 mmoles) in DMF (4 mL) was added DBU (0.382 ml., 2.56 mmoles), followed by methyl iodide (0.081 ml., 1.31 mmoles). After 1 hour, the solution was partitioned between brine and ethyl acetate, and the organic layer was dried over sodium sulfate and concentrated. The residue was purified on silica, eluting with 6% methanol in dichloromethane to give S-methyl-D-penicillamine methyl ester as a colorless oil in 81% yield: 1H--NMR (CDCl3) δ 1.25 (s, 3H) 1.35 (s, 3H), 2.02 (s, 3H), 3.44 (s,1H), 3.72 (s, 3H); FAB HRMS:expected (M+H)=178.0902, found (M+H)=178.0905.

reactant | D-penicillamine methyl ester hydrochloride | 1.25 mmoles, 0.250 g | Cl.COC([C@H](N)C(C)(C)S)=O
reactant | DBU | 2.56 mmoles, 0.382 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl iodide | 1.31 mmoles, 0.081 ml | CI | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | S-methyl-D-penicillamine methyl ester | 81% yield | COC([C@H](N)C(C)(C)SC)=O | C7H15NO2S
